US06489343B2
3-(3,4-Difluorophenyl)-5,6-dihydropyran-2-one
A solution of 3-bromo-5,6-dihydropyran-2-one (87.4 g, 0.49mol), 3,4-difluorophenylboronic acid (91.4 g, 0.58 mol), potassium carbonate (99.9 g, 0.72 mol), potassium fluoride (85.4 g, 1.47 mol) and tetrakis(triphenylphosphine)palladium (0) (12 g, 0.01 mol) in tetrahydrofuran (600 ml) was thoroughly degassed and then heated at reflux for 48 hours under an atmosphere of nitrogen. The solution was cooled to room temperature and water (1000 ml) and ethyl acetate (1000 ml) were added. The organic phase was washed with saturated brine and dried (MgSO4) and the solvent removed in vacuo. The residue was dissolved in dichloromethane and the solution filtered through a pad of silica gel. The filtrate was evaporated to dryness and the residue recrystallized from diethyl ether to give the title compound 34.6 g. mp 82-85° C. 1H NMR (360 MHz. CDCl3) δ 2.63 (2H, td J 6.2 Hz and 4.5 Hz), 4.49 (2H, t J 6.3 Hz), 7.01 (1H, t J 4.5 Hz), 7.11-7.23 (2H, m), 7.32-7.38 (1H, m).

reactant | 3-bromo-5,6-dihydropyran-2-one | 0.49mol, 87.4 g | BrC=1C(OCCC1)=O | C5H5BrO2
reactant | 3,4-difluorophenylboronic acid | 0.58 mol, 91.4 g | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
reactant | potassium carbonate | 0.72 mol, 99.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium fluoride | 1.47 mol, 85.4 g | [F-].[K+]
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.01 mol, 12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 1000 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 1000 ml | O | H2O
product | 3-(3,4-Difluorophenyl)-5,6-dihydropyran-2-one | 34.6 g | FC=1C=C(C=CC1F)C=1C(OCCC1)=O | C11H8F2O2
